US04163844
A mixture of 112 mg. of N-(3-mercaptopropyl)homophthalimide, 172 mg. of p-toluenesulfonic acid, and 4 ml. of o-dichlorobenzene was heated to 120° C. for 30 minutes. After cooling the reaction mixture, the solvent was distilled off from the reaction mixture under reduced pressure and the residue obtained was extracted with 50 ml. of benzene. The extract was washed with water, dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. By recrystallizing the residue thus obtained from isopropyl alcohol, 70 mg. of 6-oxo-3,4-dihydro-2H,6H-1,3-thiazino[3,2-b]isoquinoline was obtained.

reactant | N-(3-mercaptopropyl)homophthalimide | SCCCN1C(CC=2C(C1=O)=CC=CC2)=O | C12H13NO2S
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 6-oxo-3,4-dihydro-2H,6H-1,3-thiazino[3,2-b]isoquinoline | O=C1N2C(=CC=3C=CC=CC13)SCCC2 | C12H11NOS
